datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC1=CC(=O)Oc2cc([O-:10])ccc21.CCCC=C(C)C(=O)[O:21][H:20]>>CC1=CC(=O)Oc2cc([O:10][H:20])ccc21.CCCC=C(C)C(=O)[O-:21] 10=20;20,21=21",
"C1Cc2noc([O-:10])c2CC[NH2+]1.O=C(CCCCc1ccccc1)[O:21][H:20]>>C1Cc2noc([O:10][H:20])c2CC[NH2+]1.O=C(CCCCc1ccccc1)[O-:21] 10=20;20,21=21",
"CO/C(C)=C\C(=O)[O-:10].Nc1[nH]nn[n+:21]1[H:20]>>CO/C(C)=C\C(=O)[O:10][H:20].Nc1[nH]nn[n:21]1 10=20;20,21=21",
"CS(=O)Cc1cccc[n+:21]1[H:20].Cc1ccc(SCC(=O)[O-:10])cc1>>CS(=O)Cc1cccc[n:21]1.Cc1ccc(SCC(=O)[O:10][H:20])cc1 10=20;20,21=21",
"CCOC(=O)C1C[N:10]2CCC1CC2.O=C([O-])[C@@H](NCC[NH2+][C@@H](C(=O)[O-])c1ccccc1[O:21][H:20])c1ccccc1O>>CCOC(=O)C1C[N+:10]2([H:20])CCC1CC2.O=C([O-])[C@@H](NCC[NH2+][C@@H](C(=O)[O-])c1ccccc1[O-:21])c1ccccc1O 10=20;20,21=21",
"O=[N+]([O-])c1ccc(C[NH2:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=[N+]([O-])c1ccc(C[NH2+:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[C@@H]1[NH2+][C@H](CCCCCCCC(=O)[O:21][H:20])CC[C@@H]1O.C[N:10](C)c1ccc(SC#N)cc1>>C[C@@H]1[NH2+][C@H](CCCCCCCC(=O)[O-:21])CC[C@@H]1O.C[N+:10](C)(c1ccc(SC#N)cc1)[H:20] 10=20;20,21=21",
"C=CC[NH2+]CCC[NH:10]CC=C.Nc1nc2nc[n-]c2c([O-])[n+:21]1[H:20]>>C=CC[NH2+]CCC[NH+:10](CC=C)[H:20].Nc1nc2nc[n-]c2c([O-])[n:21]1 10=20;20,21=21",
"COc1ccc(CC(C)[NH:10]C)cc1OC.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>COc1ccc(CC(C)[NH+:10](C)[H:20])cc1OC.O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CC1=CC(=O)Oc2cc([O:21][H:20])ccc21.O=[N+]([O-])c1ccc2ccc[n:10]c2c1O>>CC1=CC(=O)Oc2cc([O-:21])ccc21.O=[N+]([O-])c1ccc2ccc[n+:10]([H:20])c2c1O 10=20;20,21=21",
"COc1ccc(C(c2ccccc2)[OH+:21][H:20])cc1.Clc1ccc([O-:10])c(Cl)c1>>COc1ccc(C(c2ccccc2)[OH:21])cc1.Clc1ccc([O:10][H:20])c(Cl)c1 10=20;20,21=21",
"[NH3+]CCCCCc1cccc[n:10]1.[NH3+]c1ccc(O)c([NH2+:21][H:20])c1>>[NH3+]CCCCCc1cccc[n+:10]1[H:20].[NH3+]c1ccc(O)c([NH2:21])c1 10=20;20,21=21",
"C[NH+](C)CCCCCCCNC(=O)/C=N/[O-:10].S=C1Nc2cc3c(cc2[N:21]1[H:20])CCCC3>>C[NH+](C)CCCCCCCNC(=O)/C=N/[O:10][H:20].S=C1Nc2cc3c(cc2[N-:21]1)CCCC3 10=20;20,21=21",
"C[N+:21](C)(c1cccc(C#N)c1)[H:20].Nc1nccc2c1[n:10]cn2CCOCP(=O)([O-])[O-]>>C[N:21](C)c1cccc(C#N)c1.Nc1nccc2c1[n+:10]([H:20])cn2CCOCP(=O)([O-])[O-] 10=20;20,21=21",
"Clc1cccc2c1nnn2[O:21][H:20].c1cnc2c(c1)cc([O-:10])c1ncccc12>>Clc1cccc2c1nnn2[O-:21].c1cnc2c(c1)cc([O:10][H:20])c1ncccc12 10=20;20,21=21",
"CC(C)([NH3+])/C(N)=[S+:21]\[H:20].CC[N:10](CC)c1ccc([N+](=O)[O-])cc1>>CC(C)([NH3+])C(N)=[S:21].CC[N+:10](CC)(c1ccc([N+](=O)[O-])cc1)[H:20] 10=20;20,21=21",
"ClCC1CC2CC[N:10]1CC2.c1cc(-c2ccncc2)c[n+:21]([H:20])c1>>ClCC1CC2CC[N+:10]1([H:20])CC2.c1cc(-c2ccncc2)c[n:21]c1 10=20;20,21=21",
"NC(=O)Cc1ccc[n+:21]([H:20])c1.O=C(O)[C@H]1CC[C@@H](C(=O)[O-:10])[Se]1>>NC(=O)Cc1ccc[n:21]c1.O=C(O)[C@H]1CC[C@@H](C(=O)[O:10][H:20])[Se]1 10=20;20,21=21",
"C[N+](C)(C)Cc1ccc([O:21][H:20])cc1.C[NH2+]CCN(C)CC[NH:10]C>>C[N+](C)(C)Cc1ccc([O-:21])cc1.C[NH2+]CCN(C)CC[NH+:10](C)[H:20] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].COc1ccc(CC(C)[NH2:10])cc1>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.COc1ccc(CC(C)[NH2+:10][H:20])cc1 10=20;20,21=21",
"Clc1ccc([NH2+:21][H:20])c2ccccc12.[O-]c1cc([O-:10])c2ccccc2[nH+]1>>Clc1ccc([NH2:21])c2ccccc12.[O-]c1cc([O:10][H:20])c2ccccc2[nH+]1 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.[NH3+]CCCC[NH2:10]>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.[NH3+]CCCC[NH2+:10][H:20] 10=20;20,21=21",
"[NH3+]Cc1cccc[n+:21]1[H:20].c1cnc[n:10]c1>>[NH3+]Cc1cccc[n:21]1.c1cnc[n+:10]([H:20])c1 10=20;20,21=21",
"CCCC[NH:10]CC(=O)Nc1c(C)cccc1C.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CCCC[NH+:10](CC(=O)Nc1c(C)cccc1C)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CC(=O)N(C)c1cc[n+:21]([H:20])cc1.c1ccc(CNc2ncnc3c2cn[n-:10]3)cc1>>CC(=O)N(C)c1cc[n:21]cc1.c1ccc(CNc2ncnc3c2cn[n:10]3[H:20])cc1 10=20;20,21=21",
"O=[N+]([O-])c1ccc([O-:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=[N+]([O-])c1ccc([O:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(=NO)C(=O)[N-:10]O.COc1ccc(C2CCC[NH+]2C)c[n+:21]1[H:20]>>CC(=NO)C(=O)[N:10](O)[H:20].COc1ccc(C2CCC[NH+]2C)c[n:21]1 10=20;20,21=21",
"O=C([O-])CC(=O)/C=N/[O:21][H:20].O=C([O-])c1c2ccccc2[n:10]c2ccccc12>>O=C([O-])CC(=O)/C=N/[O-:21].O=C([O-])c1c2ccccc2[n+:10]([H:20])c2ccccc12 10=20;20,21=21",
"COc1cccc(OC)c1-c1nc2c[n+:21]([H:20])ccc2[nH]1.Oc1ccc(-c2nnn[n-:10]2)cc1>>COc1cccc(OC)c1-c1nc2c[n:21]ccc2[nH]1.Oc1ccc(-c2nnn[n:10]2[H:20])cc1 10=20;20,21=21",
"CCCCCCCCCC[NH:10]CCC(=O)[O-].C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CCCCCCCCCC[NH+:10](CCC(=O)[O-])[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"Brc1c[n+](CC[NH2:10])cc2ccccc12.CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>Brc1c[n+](CC[NH2+:10][H:20])cc2ccccc12.CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC[NH:10]CCC(=O)[O-].N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CC[NH+:10](CCC(=O)[O-])[H:20].N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
